US06897306B2
Methyl 1-[(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylate
A solution of (3R)-6-cyclohexyl-3-(3-{[3-(methoxycarbonyl)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid (Preparation 43) (200 mg, 0.49 mmol) and N-methylmorpholine (59 μl, 0.54 mmol) in anhydrous dichloromethane (7 ml) was cooled to 0° C., treated with isobutyl chloroformate (70 μl, 0.54 mmol) and stirred under a nitrogen atmosphere for 1 hour. O-(Trimethylsilyl)hydroxylamine (175 μl, 1.47 mmol) was added and the mixture was for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with aqueous citric acid solution (10% w/v, 10 ml) and stirred for 2 hours. This mixture was then diluted with water and extracted with ethyl acetate (×3). The combined organic layers were washed with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by HPLC to afford the title compound as a foam (150 mg).

reactant | (3R)-6-cyclohexyl-3-(3-{[3-(methoxycarbonyl)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 0.49 mmol, 200 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)OC | C20H29N3O6
reactant | N-methylmorpholine | 0.54 mmol, 59 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.54 mmol, 70 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 1.47 mmol, 175 μl | C[Si](ON)(C)C | C3H11NOSi
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Methyl 1-[(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylate | 150 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)OC | C20H30N4O6
